US07700560B2
S-(Bromoacetoxy propyl acetoxy)glutathione (BPG)
To a solution of bromoacetic acid 3-(2-bromoacetoxy)propyl ester (1.05 g, 3.29 mmol) in 18 ml of acetone was slowly added an aqueous, out-gassed solution of GSH (0.2 g, 0.65° mmol) in 10 ml H2O containing 1 molar equivalent of NaOH. The mixture was allowed to stir at room temperature for 3 h. The mixture was washed with CHCl3 (4×60 ml). Aqueous layer was decanted from the organic layer and the solvent was removed from the aqueous layer in vacuo. The glassy residue was purified by reverse-phase HPLC (Waters μBondapak C18, 7.8×300 mm) using a running solvent composed of H2O:MeOH:acetic acid (80:20:1, v/v/v). Yield: 18%. 1H NMR 300 MHz (D2O, ref HOD (δ 4.8)) δ 3.931 (2H, s, —C(O)CH2Br), 2.045 (2H, p, J=6.4 Hz —OCH2CH2—), 4.247 (2H, t, J=3.9 Hz, —SCH2C(O)OCH2CH2—), 4.227 (2H, t, J=3.9 Hz, BrCH2C(O)OCH2CH2—), 4.015 (2H, s, Gly-CH2), 3.412 (2H, s, —SCH2C(O)O), 2.920 (1H, q, J=14.7, 9.0 Hz, —CCHxHyS—), 3.122 (1H, q, J=14.7, 5.2 Hz, —CCHxHyS—), 4.581 (1H, q, J=14.1, 6.0 Hz, Cys-CH), 2.136 (2H, t, J=7.2, 7.2 Hz, -Glu-CβH2), 2.511 (2H, t, J=7.2, 7.2 Hz, -Glu-CγH2), 3.775 (1H, t, J=6.0, 6.0 Hz, -Glu-CαH).

reactant | bromoacetic acid 3-(2-bromoacetoxy)propyl ester | 3.29 mmol, 1.05 g | BrCC(=O)OCCCOC(CBr)=O | C7H10Br2O4
reactant | GSH | 0.2 g | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
reactant | NaOH | [OH-].[Na+]
reactant | acetone | 18 ml | CC(=O)C | C3H6O
solvent | H2O | 1 molar, 10 ml | O | H2O
product | S-(Bromoacetoxy propyl acetoxy)glutathione | Yield: 18% | BrCC(=O)OCCCCC(=O)OSC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C17H26BrN3O10S
